US05856560
n-Pentyl 2-(chloromethyl)phenylglyoxylate
1.5 g (7.6 mmol) of 2-(chloromethyl)phenylglyoxylamide were initially introduced into 200 ml of n-pentanol. Hydrogen chloride was then introduced into the mixture as a gas until it was saturated, the temperature rising to 80° C. The mixture was then stirred for a further 3 hours and concentrated, the residue was treated with water and the mixture was extracted with methyl tert-butyl ether. The combined organic phases were washed with water, dried over sodium sulfate and concentrated. After purification by column chromatography on silica gel (methyl tert-butyl ether/n-hexane), 1.1 g (54% yield) of the title compound were obtained as a colorless oil.

reactant | 2-(chloromethyl)phenylglyoxylamide | 7.6 mmol, 1.5 g | ClCC1=C(C=CC=C1)C(C(=O)N)=O | C9H8ClNO2
reactant | Hydrogen chloride | Cl | ClH
solvent | n-pentanol | 200 ml | C(CCCC)O | C5H12O
product | n-Pentyl 2-(chloromethyl)phenylglyoxylate | 1.1 g, 54% yield | ClCC1=C(C=CC=C1)C(C(=O)OCCCCC)=O | C14H17ClO3
